US08754114B2
Step 6: cyclopropylmethyl 3-{1-[3-({[(2,2,2-trifluoroethyl)amino]carbonyl}amino)phenyl]-1H-benzimidazol-5-yl}benzoate
To a solution of 3-{1-[3-({[(2,2,2-trifluoroethyl)amino]carbonyl}amino)phenyl]-1H-benzimidazol-5-yl}benzoic acid (20.0 mg, 0.0440 mmol) and cyclopropylmethylamine (6.3 mg, 0.088 mmol Aldrich, Cat. No. 359521) in N,N-dimethylformamide (DMF) (1 mL) was added benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (23 mg, 0.053 mmol, Adv. ChemTech. Cat. No. RC8105) and N,N-diisopropylethylamine (23 μL, 0.13 mmol). The reaction mixture was stirred at r.t. 2 h., then diluted with MeOH, and purified by RP-HPLC (pH=10) to afford the desired compound. LCMS (M+H)+: m/z=508.2.

reactant | 3-{1-[3-({[(2,2,2-trifluoroethyl)amino]carbonyl}amino)phenyl]-1H-benzimidazol-5-yl}benzoic acid | 0.0440 mmol, 20.0 mg | FC(CNC(=O)NC=1C=C(C=CC1)N1C=NC2=C1C=CC(=C2)C=2C=C(C(=O)O)C=CC2)(F)F | C23H17F3N4O3
reactant | cyclopropylmethylamine | C1(CC1)CN | C4H9N
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | N,N-diisopropylethylamine | 0.13 mmol, 23 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | MeOH | CO | CH4O
product | cyclopropylmethyl 3-{1-[3-({[(2,2,2-trifluoroethyl)amino]carbonyl}amino)phenyl]-1H-benzimidazol-5-yl}benzoate | FC(CNC(=O)NC=1C=C(C=CC1)N1C=NC2=C1C=CC(=C2)C=2C=C(C(=O)OCC1CC1)C=CC2)(F)F | C27H23F3N4O3
